US20010003744A1
2-((Cyclopropylmethyl)amino)-5,6-dichloro-1-(beta-L-ribofuranosyl)-1H-benzimidazole
(Aminomethyl)cyclopropane hydrochloride (1.6 g, 15 mmol), triethylamine. (2 mL), and 2-bromo-5,6-dichloro-1-(beta-L-ribofuranosyl)-1H-benzimidazole (0.55 g, 1.05 mmol) were combined with absolute ethanol (10 mL) and stirred at 80° C. for 6 h. The reaction mixture was concentrated and purified on a silica gel column (2.5 cm× 18 cm, 230-400 mesh) with 1:20 methanol:dichloromethane. The main product off the column was repurified on a silica gel column (2.5 cm×18 cm, 230-400 mesh) with 1:10:10 methanol:ethyl acetate:hexanes to give an off white solid (0.30 g, 0.77 mmol, 74%/) m p. 229-230° C.; [a]20D(−) 24.8 (c=0.5 DMF).

reactant | (Aminomethyl)cyclopropane hydrochloride | 15 mmol, 1.6 g | Cl.NCC1CC1
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-5,6-dichloro-1-(beta-L-ribofuranosyl)-1H-benzimidazole | 1.05 mmol, 0.55 g | BrC1=NC2=C(N1[C@@H]1[C@@H](O)[C@@H](O)[C@@H](O1)CO)C=C(C(=C2)Cl)Cl | C12H11BrCl2N2O4
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-((Cyclopropylmethyl)amino)-5,6-dichloro-1-(beta-L-ribofuranosyl)-1H-benzimidazole | C1(CC1)CNC1=NC2=C(N1[C@@H]1[C@@H](O)[C@@H](O)[C@@H](O1)CO)C=C(C(=C2)Cl)Cl | C16H19Cl2N3O4
